data/mechanism_extracts/Synthesis/10.1055_a-2508-9744.json
{"doi": "10.1055_a-2508-9744", "journal": "Synthesis", "is_review": false, "rxn_class_summary": "Aggregation-induced electrochemical boronation–dihydroxylation of alkenes using water-soluble boronic acids as hydroxyl source in full aqueous media without transition-metal catalyst", "mechanism_family": ["radical_anodic", "radical_polar_crossover", "anion_initiated"], "electrochemical_role": "Anodic oxidation of the lipophilic alkene aggregated at the hydrophobic electrode surface to generate a carbon-centered radical (then cation after second oxidation); the hydroxyboronate anion (R-B(OH)3-) supplies the hydroxyl via C-O bond formation at the aggregation layer", "key_intermediates": [{"name": "alkene aggregated layer at lipophilic anode", "smiles": null, "role": "reactive"}, {"name": "anodic carbon radical from alkene one-electron oxidation", "smiles": null, "role": "transient"}, {"name": "hydroxyboronate anion R-B(OH)3- (nucleophilic hydroxyl donor)", "smiles": null, "role": "reactive"}, {"name": "β-boronate-alkyl radical after first C-O bond formation", "smiles": null, "role": "transient"}, {"name": "β-boronate carbocation after second oxidation", "smiles": null, "role": "transient"}, {"name": "cyclic boronate ester product (1,2-diol boronate)", "smiles": null, "role": "reactive"}], "electron_flow": "Alkene aggregates at the anode where surface tension drives concentration; anode performs single-electron oxidation of the alkene to a radical, which is captured by the hydroxyboronate anion to form the first C-O bond; a second anodic oxidation gives a cation that is trapped by a second hydroxyl from boronate, yielding the cyclic boronate/diol product which diffuses into the aqueous phase.", "rate_determining_step": null, "probe_reagents": [], "evidence_types_used": ["other"], "evidence_strength": "weak", "notes": "Mechanism is presented as a proposed aggregation model (Scheme 2) emphasizing the well-defined diffusion regime: lipophilic alkene aggregates at the anode while hydrophilic boronic acid is shielded by water; the anionic product gains aqueous solubility and diffuses away, regenerating the aggregation site. Only the mechanism-introduction pages were provided, so no probe experiments (TEMPO, KIE, CV, DFT) are documented here even if performed later in the paper."}
